* LVS netlist generated with ICnet by 'bxk5113' on Thu Sep 26 2019 at 15:50:43

*
* Globals.
*
.global ground

*
* Component pathname : $PYXIS_SPT/digicdesign/inv
*
.subckt inv  Y A Vdd

        M2 Y A Vdd Vdd pmos l=0.13u w=0.52u m=1
        M1 Y A ground ground nmos l=0.13u w=0.26u m=1
.ends inv

