* File: inv.pex.netlist.pex
* Created: Sat Oct  5 12:06:08 2019
* Program "Calibre xRC"
* Version "v2013.4_26.18"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV_VDD 1 3 16
c0 20 0 0.313075f
c1 14 0 0.636775f
c2 13 0 0.387652f
c3 12 0 0.09308f
c4 5 0 0.234308f
r5 14 20 0.0217414
r6 14 16 0.08
r7 13 20 0.0211941
r8 12 18 0.0262258
r9 12 13 0.4
r10 5 18 0.0196693
r11 5 7 0.0906154
r12 3 22 5.49
r13 1 22 2.66054
r14 1 18 15.53
r15 1 7 15.61
.ends

.subckt PM_INV_GROUND 1 2 17
c0 18 0 0.313348f
c1 15 0 0.565028f
c2 14 0 0.480732f
c3 8 0 0.261868f
r4 15 18 0.0264985
r5 15 17 0.08
r6 14 20 0.0262258
r7 13 18 0.0157129
r8 13 14 0.4
r9 8 20 0.0196693
r10 8 10 0.119077
r11 2 23 5.13774
r12 2 20 15.61
r13 2 10 15.53
r14 1 23 3.0308
.ends

.subckt PM_INV_Y 1 3 17
c0 19 0 0.03094f
c1 17 0 0.093154f
c2 12 0 0.263831f
c3 7 0 0.263831f
r4 15 19 0.0185957
r5 15 17 0.06
r6 10 19 0.0238874
r7 10 12 0.188923
r8 5 19 0.0238874
r9 5 7 0.18441
r10 4 12 15.53
r11 4 7 15.61
r12 3 4 4.575
r13 1 4 8.26517
.ends

.subckt PM_INV_A 4 8 12
c0 15 0 0.31096f
c1 10 0 0.19656f
c2 8 0 0.335954f
c3 4 0 0.277194f
r4 12 15 0.136923
r5 10 21 11.2861
r6 10 19 11.5938
r7 10 15 11.07
r8 8 21 60
r9 4 19 60
.ends

